US08258144B2
A solution of 5-bromo-2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine (142 mg, 0.530 mmol), cyclobutylamine (0.090 mL, 1.06 mmol) and TEA (0.150 mL, 1.08 mmol) in nBuOH (6 mL) was stirred at 70° C. for 18 h. CH2Cl2 and H2O were added. The organic phase was separated, washed with 5% NaHCO3, then with 1N HCl, dried over Na2SO4, concentrated in vacuo to give 5-bromo-2-chloro-N-cyclobutyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (154 mg).

reactant | 5-bromo-2,4-dichloro-7H-pyrrolo[2,3-d]pyrimidine | 0.530 mmol, 142 mg | BrC1=CNC=2N=C(N=C(C21)Cl)Cl | C6H2BrCl2N3
reactant | cyclobutylamine | 1.06 mmol, 0.090 mL | C1(CCC1)N | C4H9N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | H2O | O | H2O
solvent | nBuOH | 6 mL | C(CCC)O | C4H10O
product | 5-bromo-2-chloro-N-cyclobutyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 154 mg | BrC1=CNC=2N=C(N=C(C21)NC2CCC2)Cl | C10H10BrClN4
